US04609650
16β-Ethyl-17β-isobutyryloxyacetoxy-4-estren-3-one
In a mixture of 50 ml of acetone and 10 ml of water are dissolved 1.5 g of 16β-ethyl-bromoacetoxy-4-estren-3-one and 0.8 g of potassium isobutyrate and the solution is refluxed for 6 hours. The acetone is distilled off under reduced pressure and the residue is extracted with 200 ml of ethyl acetate. The organic layer is separated, washed with water and saturated aqueous sodium chloride and dried over anhydrous magnesium sulfate. The solvent is then distilled off under reduced pressure and the residue is subjected to column chromatography. Following passage of 100 ml of diisopropyl ether, elution is carried out with 300 ml of ethyl ether. The eluate is evaporated under reduced pressure to remove the solvent, giving 1.08 g of the above-identified compound as a viscous oil.

reactant | 16β-ethyl-bromoacetoxy-4-estren-3-one | 1.5 g | C(C)[C@@H]1C[C@]2(COC(CBr)=O)[C@@H](C1)[C@@H]1CCC3=CC(CC[C@@H]3[C@H]1CC2)=O | C22H31BrO3
reactant | potassium isobutyrate | 0.8 g | C(C(C)C)(=O)[O-].[K+]
solvent | acetone | 50 ml | CC(=O)C | C3H6O
solvent | water | 10 ml | O | H2O
product | 16β-Ethyl-17β-isobutyryloxyacetoxy-4-estren-3-one | 1.08 g | C(C)[C@@H]1[C@@H]([C@]2(C)[C@@H](C1)[C@@H]1CCC3=CC(CC[C@@H]3[C@H]1CC2)=O)OC(COC(C(C)C)=O)=O | C26H38O5
